US07846956B2
0.96 g of methyl 3-t-butyl-1,2,4-thiadiazole-5-carboxylate was dissolved in 48 ml of dichloromethane and then cooled to −78° C. under a nitrogen atmosphere. To the solution, 11 ml of a solution (1 mol/L) of diisobutylaluminum hydride in toluene was added and the mixture was stirred at 0° C. for 3 hours. After 10 ml of 1 mol/L hydrochloric acid was added, the reaction mixture was stirred for 10 minutes and 50 ml of aqueous saturated sodium hydrogen carbonate was then added. The reaction mixture was extracted with chloroform, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.56 g of (3-t-butyl-1,2,4-thiadiazol-5-yl)methanol.

reactant | methyl 3-t-butyl-1,2,4-thiadiazole-5-carboxylate | 0.96 g | C(C)(C)(C)C1=NSC(=N1)C(=O)OC | C8H12N2O2S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L, 10 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 48 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3-t-butyl-1,2,4-thiadiazol-5-yl)methanol | 0.56 g | C(C)(C)(C)C1=NSC(=N1)CO | C7H12N2OS
